US08304417B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-[2-(4-methylpiperazin-1-yl)ethoxy]-5-tetrahydropyran-4-yloxyquinazoline (Route 3)
4-(6-Chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline (0.5 g) was added to a stirred mixture of potassium hydroxide (0.168 g), 1-(2-hydroxyethyl)-4-methylpiperazine (0.69 g) and di-(2-methoxyethyl)ether (10 ml) that had been warmed to 120° C. and the resultant reaction mixture was heated to 120° C. for 12 hours. The reaction mixture was cooled to ambient temperature, acidified to pH 1 to 3 by the addition of 1M aqueous hydrochloric acid (9 ml) and washed with isopropyl acetate (20 ml). The aqueous solution was stirred and basified to pH 13 to 14 by the addition of 2M aqueous sodium hydroxide (5 ml). After 10 minutes, water (22 ml) was added and the mixture was stirred for 2 hours to allow precipitation of a solid to finish. The mixture was cooled to 10° C. and filtered. The resultant solid was washed with water (20 ml) and dried in vacuo at 40° C. There was thus obtained 4-(6-chloro-2,3-methylenedioxyanilino)-7-[2-(4-methylpiperazin-1-yl)ethoxy]-5-tetrahydropyran-4-yloxyquinazoline (0.47 g, 92.5% purity by HPLC using Method B, retention time 7.3 minutes); NMR Spectrum: (CDCl3) 1.65 (br s, 3H), 1.9-2.05 (m, 2H), 2.2-2.3 (m, 2H), 2.31 (s, 3H), 2.4-2.8 (m, 8H), 2.9 (m, 2H), 3.6-3.7 (m, 2H), 3.95-4.05 (m, 2H), 4.2-4.25 (m, 2H), 4.8 (m, 1H), 6.05 (s, 2H), 6.55 (s, 1H), 6.75 (d, 1H), 6.85 (s, 1H), 7.0 (d, 1H), 8.55 (s, 1H), 9.25 (s, 1H).

reactant | 4-(6-Chloro-2,3-methylenedioxyanilino)-7-fluoro-5-tetrahydropyran-4-yloxyquinazoline | 0.5 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)F)OCO2 | C20H17ClFN3O4
reactant | potassium hydroxide | 0.168 g | [OH-].[K+]
reactant | 1-(2-hydroxyethyl)-4-methylpiperazine | 0.69 g | OCCN1CCN(CC1)C | C7H16N2O
reactant | hydrochloric acid | 1M, 9 ml | Cl | ClH
solvent | di-(2-methoxyethyl)ether | 10 ml | COCCOCCOC | C6H14O3
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-[2-(4-methylpiperazin-1-yl)ethoxy]-5-tetrahydropyran-4-yloxyquinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)OCCN1CCN(CC1)C)OCO2 | C27H32ClN5O5
